US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-2-(4-ethyl-3-methylpiperazin-1-yl)pyrimidine-5-carboxamide
Trimethylaluminium (2M in toluene, 1.65 ml, 3.31 mmol) was added dropwise to a stirred suspension of methyl 2-(4-ethyl-3-methylpiperazin-1-yl)pyrimidine-5-carboxylate (303 mg, 1.15 mmol) and 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (283 mg, 1.15 mmol) in toluene (5.73 ml) at room temperature. The resulting solution was stirred at 60° C. overnight. The reaction mixture was quenched into methanol (100 mL) and treated with HCl (2N aqueous solution, until the pH was 7 or lower). The crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and fractions were evaporated to dryness to afford impure product as a yellow dry film. The crude product was purified by preparative HPLC, using decreasingly polar mixtures of water (containing 1% NH3) and MeCN as eluents. Fractions containing the desired compound were evaporated to dryness to afford the title compound (269 mg, 49%) as a cream solid.

reactant | Trimethylaluminium | 3.31 mmol, 2M, 1.65 ml | C[Al](C)C
reactant | methyl 2-(4-ethyl-3-methylpiperazin-1-yl)pyrimidine-5-carboxylate | 1.15 mmol, 303 mg | C(C)N1C(CN(CC1)C1=NC=C(C=N1)C(=O)OC)C | C13H20N4O2
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 1.15 mmol, 283 mg | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
solvent | toluene | 5.73 ml | C1(=CC=CC=C1)C | C7H8
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-2-(4-ethyl-3-methylpiperazin-1-yl)pyrimidine-5-carboxamide | 269 mg, 49% | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(=O)C=1C=NC(=NC1)N1CC(N(CC1)CC)C | C25H33N7O3
